US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-methylamino-ethyl)-1H-imidazol-4-yl]-amide
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-oxo-ethyl)-1H-imidazol-4-yl]-amide was reacted with methylamine to afford the title compound: C13 NMR (100 MHz, CDCl3) 13.9, 19.0, 26.5, 26.6, 36.0, 37.2, 43.1, 46.0, 53.2, 58.8, 62.6, 102.6, 102.8, 103.1, 105.1, 112.3, 112.6, 131.6, 137.8, 138.8, 162.0, 164.5, 169.2, 169.3; MS m/z 422.2 (M+1).

reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-oxo-ethyl)-1H-imidazol-4-yl]-amide | CC(C=O)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C20H24F2N4O3
reactant | methylamine | CN | CH5N
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-methylamino-ethyl)-1H-imidazol-4-yl]-amide | CC(CNC)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C21H29F2N5O2
